US09056859B2
To a solution of 5-(2-hydroxyethyl)-2-benzofuran-1(3H)-one (0.50 g, 2.8 mmol) and Et3N (0.65 mL, 4.7 mmol) in dichloromethane (5 mL) was added methanesulfonyl chloride (0.24 mL, 3.1 mmol) at 0° C. After 15 min. the reaction mixture was poured into saturated ammonium chloride and extracted with dichloromethane. The combined organics were washed with 1 N HCl, saturated sodium bicarbonate solution, and brine, then dried (MgSO4) and concentrated in vacua. The residue (LC/MS: [(M+1)]+=257.2; tR=0.45 min) was redissolved in dichloromethane (5 mL) and treated with DBU (0.80 mL, 5.3 mmol) and stirred 2 h. TLC monitoring showed conversion to the olefin. The reaction mixture was diluted with water and extracted with dichloromethane. The combined organics were washed with 1 N HCl, saturated sodium bicarbonate solution, and brine, then dried (MgSO4) and concentrated in vacuo. The resulting olefin (LC/MS: [(M+1)]+=161.2) was dissolved in dichloromethane (5 mL) and treated with meta-chloro perbenzoic acid (0.90 g, 3.7 mmol) at 0° C. After 3 h, the mixture was diluted with saturated sodium bicarbonate solution and extracted twice with dichloromethane. The combined organic extracts were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The crude epoxide was purified by silica gel column chromatography (5→80% EtOAc:hexane) to provide the 5-oxirane-2-yl-2-benzofuran-1(3H)-one. 1H NMR (500 MHz, CD3OD) δ 7.84 (d, J=8.0 Hz, 1H), 7.55 (s, 1H), 7.52 (d, J=8.0 Hz, 1H), 5.38 (s, 2H), 4.05 (dd, J=2.6, 3.9 Hz, 1H), 3.21 (dd, J=4.3, 5.4 Hz, 1H), 2.82 (dd, J=2.4, 5.5 Hz, 1H); LC/MS: [(M+1)]+=177.1.

reactant | 5-(2-hydroxyethyl)-2-benzofuran-1(3H)-one | 2.8 mmol, 0.50 g | OCCC1=CC2=C(C(OC2)=O)C=C1 | C10H10O3
reactant | Et3N | 4.7 mmol, 0.65 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.1 mmol, 0.24 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | DBU | 5.3 mmol, 0.80 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | meta-chloro perbenzoic acid | 3.7 mmol, 0.90 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-oxirane-2-yl-2-benzofuran-1(3H)-one | O1C(C1)C1=CC2=C(C(OC2)=O)C=C1 | C10H8O3
